US04433145
N,N'-Bis-(2,4-dichloro-1,3,5-triazin-6-yl)-ethylenediamine
A solution of 15 g (0.25 mole) of ethylenediamine in 125 ml of cold acetone is added dropwise, at 0° to 5° C., to 92.2 g (0.5 mole) of cyanuric chloride, dissolved in 500 ml of acetone. The mixture is subsequently stirred for 30 minutes and a solution of 20 g (0.5 mole) of NaOH in 125 ml of water is then slowly added at 0° to 5° C. After stirring the mixture at the same temperature for four hours, it is diluted with 500 ml of ice-water and the solid is filtered off. The desired compound is obtained in the form of a white powder.

reactant | ethylenediamine | 0.25 mole, 15 g | C(CN)N | C2H8N2
reactant | cyanuric chloride | 0.5 mole, 92.2 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | NaOH | 0.5 mole, 20 g | [OH-].[Na+]
solvent | acetone | 125 ml | CC(=O)C | C3H6O
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | water | 125 ml | O | H2O
product | N,N'-Bis-(2,4-dichloro-1,3,5-triazin-6-yl)-ethylenediamine | ClC1=NC(=NC(=N1)Cl)NCCNC1=NC(=NC(=N1)Cl)Cl | C8H6Cl4N8
